data/oMe_Silver.jsonl
{"reaction_id": "NR-127_1-C_2-C_3-C","name": "Krapcho Decarboxylation","level": "medium","reactants_smiles": ["C(C)(C)(C)C(=O)OC"],"products_smiles": ["C(C)(C)(C)"],"conditions": "[Li+].[Cl-]","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C)(C)(C)C(=O)[O-]","rationale": "Chloride, a good nucleophile in polar aprotic media, attacks the methyl ester, displacing methoxide due to its good leaving group ability and forming a stabilized carboxylate."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[C-](C)(C)(C)","rationale": "The carboxylate undergoes heterolytic C–C bond cleavage, driven by CO2 release, as the resulting carbanion is stabilized by adjacent substituents and entropy gain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)(C)","rationale": "The carbanion abstracts a proton from the medium, as protonation yields the neutral alkane, which is thermodynamically more stable than the charged species."}],"description": "Under LiCl conditions, chloride acts as a nucleophile to displace the methyl ester group, generating a carboxylate. The carboxylate undergoes decarboxylation due to the instability of the intermediate, yielding the alkane after protonation."}
{"reaction_id": "NR-241_1-C(C)(C)C_2-COCC_3-c1ccc(C#N)cc1_4-c1c(F)c(F)c(F)c(F)c1F","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["C(C)(C)CC(=O)[H]","COCCOC(=O)CP(=O)(Oc1ccc(C#N)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["C(C)(C)C/C=C\\C(=O)OCOCC"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COCCOC(=O)[CH-]P(=O)(Oc1ccc(C#N)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COCCOC(=O)C(P(=O)(Oc1ccc(C#N)cc1)(Oc1c(F)c(F)c(F)c(F)c1F))C([O-])C(C)(C)C","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COCCOC(=O)C1C(C(C)(C)C)OP1([O-])(Oc1ccc(C#N)cc1)(Oc1c(F)c(F)c(F)c(F)c1F)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)C/C=C\\C(=O)OCOCC","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
